US08247403B2
(2) 7-(morpholin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine dihydrochloride
A mixture of tert-butyl 7-(morpholin-4-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (180 mg, 0.538 mmol), ethyl acetate (1 ml) and 4N hydrogen chloride-ethyl acetate solution (4 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (134 mg, 81.2%) as a solid.

reactant | tert-butyl 7-(morpholin-4-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.538 mmol, 180 mg | N1(CCOCC1)C=1C=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C1 | C18H26N2O4
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 7-(morpholin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine dihydrochloride | 134 mg, 81.2% | Cl.Cl.N1(CCOCC1)C=1C=CC2=C(CNCCO2)C1 | InChI=1S/C13H18N2O2.2ClH/c1-2-13-11(10-14-3-6-17-13)9-12(1)15-4-7-16-8-5-15;;/h1-2,9,14H,3-8,10H2;2*1H
